US08685969B2
7. 4-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide
A burgundy solution of 4-(3-amino-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide (0.0612 g, 0.140 mmol), 1H-benzo[d][1,3]oxazine-2,4-dione (0.057 g, 0.351 mmol), trimethoxymethane (0.154 ml, 1.402 mmol) and lanthanum nitrate hexahydrate (0.018 g, 0.042 mmol) in THF (0.334 mL) in a sealed vial was stirred overnight at 95° C. The reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in DMSO (0.2 mL) and MeOH (1.6 mL), and subjected to autoprep reverse phase HPLC. The appropriate fractions were collected, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combine extract was dried over Na2SO4 and concentrated in vacuo to give the desired product (0.0135 g, 0.024 mmol, 17.1% yield) as a tan solid. LC/MS (M+H)=531.29; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for major atropoisomer) δ ppm 11.48 (1 H, s), 8.42 (1 H, s), 8.21-8.28 (2 H, m), 8.15 (1 H, s), 7.88-7.94 (1 H, m), 7.76-7.81 (1 H, m), 7.69-7.74 (1 H, m), 7.53-7.69 (4 H, m), 7.27 (1 H, d, J=2.22 Hz), 6.79-6.86 (1 H, m), 3.74-3.81 (4 H, m), 3.16-3.23 (4 H, m), 1.81 (3 H, s).

reactant | 4-(3-amino-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.140 mmol, 0.0612 g | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)N)C | C23H23N5O2
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 0.351 mmol, 0.057 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | trimethoxymethane | 1.402 mmol, 0.154 ml | COC(OC)OC | C4H10O3
reactant | lanthanum nitrate hexahydrate | 0.042 mmol, 0.018 g | O.O.O.O.O.O.[N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | THF | 0.334 mL | C1CCOC1 | C4H8O
product | 4-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.024 mmol, 0.0135 g, 17.1% yield | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)N | C31H26N6O3
